### PR TITLE
[Merged by Bors] - feat: left and right derivatives of a convex function

### PR DESCRIPTION
**Pull request by RemyDegenne**
Properties of left and right derivatives of a convex function on (the interior of) a convex set: monotonicity; leftDeriv <= rightDeriv; if leftDeriv <= 0 <= rightDeriv then the function is minimal.

From the TestingLowerBounds project.
Co-authored-by: Lorenzo Luccioli

---

- [x] depends on: #21076

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Convex/Deriv.lean [hunk 1]
```diff
@@ -365,19 +365,221 @@ lemma ConvexOn.slope_mono (hfc : ConvexOn 𝕜 s f) (hx : x ∈ s) : MonotoneOn
...
+  (hfc.slope_anti hxs).mono fun _ ⟨h1, h2⟩ ↦ ⟨h1, h2.ne'⟩
+
+lemma ConcaveOn.antitoneOn_slope_lt (hfc : ConcaveOn 𝕜 s f) (hxs : x ∈ s) :
+    AntitoneOn (slope f x) {y ∈ s | y < x} :=
+  (hfc.slope_anti hxs).mono fun _ ⟨h1, h2⟩ ↦ ⟨h1, h2.ne⟩
+
+variable [TopologicalSpace 𝕜] [OrderTopology 𝕜]
+
+lemma bddBelow_slope_Ioi_of_mem_interior (hfc : ConvexOn 𝕜 s f) (hxs : x ∈ interior s) :
+    BddBelow (slope f x '' {y ∈ s | x < y}) := by
```
Comment (YaelDillies) [inline Mathlib/Analysis/Convex/Deriv.lean:394]: There is no `Ioi` in the statement

File: Mathlib/Analysis/Convex/Deriv.lean [hunk 2]
```diff
@@ -365,19 +365,221 @@ lemma ConvexOn.slope_mono (hfc : ConvexOn 𝕜 s f) (hx : x ∈ s) : MonotoneOn
...
+  obtain ⟨y, hys, hyx⟩ : ∃ y ∈ s, y < x := by
+    rw [mem_interior_iff_mem_nhds, mem_nhds_iff_exists_Ioo_subset] at hxs
+    obtain ⟨a, b, hxab, habs⟩ := hxs
+    rw [mem_Ioo] at hxab
+    obtain ⟨a', haa', ha'x⟩ := exists_between hxab.1
+    exact ⟨a', habs ⟨haa', ha'x.trans hxab.2⟩, ha'x⟩
```
Comment (YaelDillies) [inline Mathlib/Analysis/Convex/Deriv.lean:400]: That looks like a hole in our API. I tried golfing it but to no avail. Eg it would be a direct consequence of either a strengthening of `exists_Icc_mem_subset_of_mem_nhds` (that says `a ∈ Ioo b c` instead of `a ∈ Icc b c`) or of `exists_Ico_subset_of_mem_nhds` (that further says `u ∈ s`)

File: Mathlib/Analysis/Convex/Deriv.lean [hunk 3]
```diff
@@ -583,11 +835,14 @@ lemma slope_lt_of_hasDerivWithinAt_Iio (hfc : StrictConvexOn ℝ S f)
   simp_rw [← slope_def_field, slope_comm _ y] at this
   exact this.trans_le <| hfc.convexOn.slope_le_of_hasDerivWithinAt_Iio hu hy huy hf'
 
-lemma slope_lt_left_deriv (hfc : StrictConvexOn ℝ S f) (hx : x ∈ S) (hy : y ∈ S) (hxy : x < y)
+lemma slope_lt_leftDeriv (hfc : StrictConvexOn ℝ S f) (hx : x ∈ S) (hy : y ∈ S) (hxy : x < y)
```
Comment (YaelDillies) [inline Mathlib/Analysis/Convex/Deriv.lean:838]: Would you mind doing these renames separately?. This PR is already pretty big.

File: Mathlib/Analysis/Convex/Deriv.lean (hunk 1 above)
Comment (RemyDegenne) [reply Mathlib/Analysis/Convex/Deriv.lean:394]: Yeah that was meant to refer to `{y ∈ s | x < y}`, but that's not really Ioi because of the `y ∈ s` condition.

File: Mathlib/Analysis/Convex/Deriv.lean (hunk 3 above)
Comment (RemyDegenne) [reply Mathlib/Analysis/Convex/Deriv.lean:838]: #21076

File: Mathlib/Analysis/Convex/Deriv.lean (hunk 1 above)
Comment (YaelDillies) [reply Mathlib/Analysis/Convex/Deriv.lean:394]: You could write it as `s ∩ Ioi x`, I guess

File: Mathlib/Topology/Order/Basic.lean [hunk 4]
```diff
@@ -463,6 +463,24 @@ theorem mem_nhds_iff_exists_Ioo_subset [OrderTopology α] [NoMaxOrder α] [NoMin
...
+theorem exists_lt_mem_of_mem_nhds [OrderTopology α] [NoMaxOrder α] [NoMinOrder α] [DenselyOrdered α]
+    {a : α} {s : Set α} (hs : s ∈ 𝓝 a) :
+    ∃ y ∈ s, y < a := by
+  rw [mem_nhds_iff_exists_Ioo_subset] at hs
+  obtain ⟨b, c, ha_mem, hbcs⟩ := hs
+  rw [mem_Ioo] at ha_mem
+  obtain ⟨y, hby, hya⟩ := exists_between ha_mem.1
+  exact ⟨y, hbcs ⟨hby, hya.trans ha_mem.2⟩, hya⟩
+
+theorem exists_gt_mem_of_mem_nhds [OrderTopology α] [NoMaxOrder α] [NoMinOrder α] [DenselyOrdered α]
```
Comment (YaelDillies) [inline Mathlib/Topology/Order/Basic.lean:475]:
```suggestion
theorem exists_gt_mem_of_mem_nhds [OrderTopology α] [NoMinOrder α] [DenselyOrdered α]
```
This should still be true. Actually even the following might be true but I am not sure how to prove it
```suggestion
theorem exists_gt_mem_of_mem_nhds [OrderTopology α] [DenselyOrdered α]
```

File: Mathlib/Topology/Order/Basic.lean
Comment (YaelDillies) [inline Mathlib/Topology/Order/Basic.lean:1]: Can you make this a separate PR?

File: Mathlib/Topology/Order/Basic.lean (hunk 4 above)
Comment (RemyDegenne) [reply Mathlib/Topology/Order/Basic.lean]: I removed one of the assumption. I don't think it's possible to remove the other (what if `a` is bot?).

File: Mathlib/Topology/Order/Basic.lean
Comment (RemyDegenne) [reply Mathlib/Topology/Order/Basic.lean:1]: For 12 lines that you are already reviewing? I'm not sure I see the point.

File: Mathlib/Analysis/Convex/Deriv.lean [hunk 5]
```diff
@@ -514,6 +720,35 @@ theorem monotoneOn_deriv (hfc : ConvexOn ℝ S f) (hfd : ∀ x ∈ S, Differenti
   · rfl
   exact (hfc.deriv_le_slope hx hy hxy' (hfd x hx)).trans (hfc.slope_le_deriv hx hy hxy' (hfd y hy))
 
+lemma ge_of_leftDeriv_nonpos_of_rightDeriv_nonneg (hf : ConvexOn ℝ S f) (hx : x ∈ interior S)
```
Comment (YaelDillies) [inline Mathlib/Analysis/Convex/Deriv.lean:723]:
```suggestion
lemma le_of_leftDeriv_nonpos_of_rightDeriv_nonneg (hf : ConvexOn ℝ S f) (hx : x ∈ interior S)
```
and below, no?

File: Mathlib/Analysis/Convex/Deriv.lean [hunk 6]
```diff
@@ -365,19 +365,213 @@ lemma ConvexOn.slope_mono (hfc : ConvexOn 𝕜 s f) (hx : x ∈ s) : MonotoneOn
...
+
+lemma bddBelow_slope_lt_of_mem_interior (hfc : ConvexOn 𝕜 s f) (hxs : x ∈ interior s) :
+    BddBelow (slope f x '' {y ∈ s | x < y}) := by
+  obtain ⟨y, hys, hyx⟩ : ∃ y ∈ s, y < x :=
+    exists_lt_mem_of_mem_nhds (mem_interior_iff_mem_nhds.mp hxs)
+  refine bddBelow_iff_subset_Ici.mpr ⟨slope f x y, fun y' ⟨z, hz, hz'⟩ ↦ ?_⟩
+  simp_rw [mem_Ici, ← hz']
+  refine hfc.slope_mono (interior_subset hxs) ?_ ?_ (hyx.trans hz.2).le
+  · simp [hys, hyx.ne]
+  · simp [hz.2.ne', hz.1]
```
Comment (qawbecrdtey) [inline Mathlib/Analysis/Convex/Deriv.lean:401]:
```suggestion
  · exact (mem_diff _).mpr ⟨hys, fun h ↦ hyx.ne (mem_singleton_iff.mp h)⟩
  · exact (mem_diff _).mpr ⟨hz.1, fun h ↦ hz.2.ne' (mem_singleton_iff.mp h)⟩
```

File: Mathlib/Analysis/Convex/Deriv.lean [hunk 7]
```diff
@@ -365,19 +365,213 @@ lemma ConvexOn.slope_mono (hfc : ConvexOn 𝕜 s f) (hx : x ∈ s) : MonotoneOn
...
+
+lemma bddAbove_slope_gt_of_mem_interior (hfc : ConvexOn 𝕜 s f) (hxs : x ∈ interior s) :
+    BddAbove (slope f x '' {y ∈ s | y < x}) := by
+  obtain ⟨y, hys, hyx⟩ : ∃ y ∈ s, x < y :=
+    exists_gt_mem_of_mem_nhds (mem_interior_iff_mem_nhds.mp hxs)
+  refine bddAbove_iff_subset_Iic.mpr ⟨slope f x y, fun y' ⟨z, hz, hz'⟩ ↦ ?_⟩
+  simp_rw [mem_Iic, ← hz']
+  refine hfc.slope_mono (interior_subset hxs) ?_ ?_ (hz.2.trans hyx).le
+  · simp [hz.2.ne, hz.1]
+  · simp [hys, hyx.ne']
```
Comment (qawbecrdtey) [inline Mathlib/Analysis/Convex/Deriv.lean:411]:
```suggestion
  · exact (mem_diff _).mpr ⟨hz.1, fun h ↦ hz.2.ne (mem_singleton_iff.mp h)⟩
  · exact (mem_diff _).mpr ⟨hys, fun h ↦ hyx.ne' (mem_singleton_iff.mp h)⟩
```

File: Mathlib/Analysis/Convex/Deriv.lean [hunk 8]
```diff
@@ -514,6 +720,35 @@ theorem monotoneOn_deriv (hfc : ConvexOn ℝ S f) (hfd : ∀ x ∈ S, Differenti
...
+lemma ge_of_leftDeriv_nonpos_of_rightDeriv_nonneg (hf : ConvexOn ℝ S f) (hx : x ∈ interior S)
+    (hf_ld : derivWithin f (Iio x) x ≤ 0) (hf_rd : 0 ≤ derivWithin f (Ioi x) x) (hy : y ∈ S) :
+    f x ≤ f y := by
+  rcases lt_trichotomy x y with hxy | h_eq | hyx
+  · suffices 0 ≤ slope f x y by
+      simp only [slope_def_field, div_nonneg_iff, sub_nonneg, tsub_le_iff_right, zero_add,
+        not_le.mpr hxy, and_false, or_false] at this
+      exact this.1
+    exact hf_rd.trans <| rightDeriv_le_slope_of_mem_interior hf hx hy hxy
+  · simp [h_eq]
```
Comment (qawbecrdtey) [inline Mathlib/Analysis/Convex/Deriv.lean:732]:
```suggestion
  · exact le_of_eq (congrArg f h_eq)
```

**Review by qawbecrdtey — COMMENTED** [review]
Removing unnecessary `simp`s.

**Comment by YaelDillies** [comment]
Your suggested replacements look much more brittle than the simp calls. What's your motivation for avoiding simp?

**Comment by qawbecrdtey** [comment]
> Your suggested replacements look much more brittle than the simp calls. What's your motivation for avoiding simp?

I just want to remove raw `simp` if possible. Of course, `simp only` will also do the job, and I don't mind if those are rewritten using `simp only`.

**Comment by YaelDillies** [comment]
Why do you want to remove raw `simp`?

**Comment by qawbecrdtey** [comment]
There are no good reasons, to be honest. Still, I think by getting rid of raw `simp`s in the first place will reduce the build time, at least a bit. (this might not be true in general)

**Comment by YaelDillies** [comment]
There are many things that go into the speed of a proof. Here are the three main ones:
* tactic runtime
* term elaboration time
* kernel checking time

Replacing tactics by the terms they produce makes the first one decrease but might significantly increase the second one. Elaboration is complicated.

Besides the dubious time gain, removing tactics also means your proof is less flexible and more sensible to future changes to the library. A small performance gain on an automated task might turn into a huge time sink on a manual one.

TLDR: Don't remove simp!! 🙂

File: Mathlib/Topology/Order/Basic.lean
Comment (RemyDegenne) [reply Mathlib/Topology/Order/Basic.lean:1]: See #21827

File: Mathlib/Analysis/Convex/Deriv.lean (hunk 5 above)
Comment (RemyDegenne) [reply Mathlib/Analysis/Convex/Deriv.lean]: I rewrote the statements to use `IsMinOn` and I used that in the name.

**Comment by YaelDillies** [comment]
maintainer merge

File: Mathlib/Analysis/Convex/Deriv.lean [hunk 9]
```diff
@@ -365,19 +365,213 @@ lemma ConvexOn.slope_mono (hfc : ConvexOn 𝕜 s f) (hx : x ∈ s) : MonotoneOn
...
+      obtain ⟨y, ⟨hys, hxy⟩, rfl⟩ := hz
+      obtain ⟨z, hxz, hzy⟩ := exists_between (lt_min hxab.2 hxy)
+      refine csInf_le_of_le (b := slope f x z) h_bddBelow ?_ ?_
+      · exact ⟨z, ⟨hxz, hzy.trans_le (min_le_left _ _)⟩, rfl⟩
+      · refine monotoneOn_slope_gt hfc (interior_subset hxs) ?_ ⟨hys, hxy⟩
+          (hzy.le.trans (min_le_right _ _))
+        exact ⟨habs ⟨hxab.1.trans hxz, hzy.trans_le (min_le_left _ _)⟩, hxz⟩
+  · refine csInf_le_csInf (bddBelow_slope_lt_of_mem_interior hfc hxs) ?_ ?_
+    · simpa using hxab.2
+    · exact image_subset _ fun z hz ↦ ⟨habs ⟨hxab.1.trans hz.1, hz.2⟩, hz.1⟩
```
Comment (b-mehta) [inline Mathlib/Analysis/Convex/Deriv.lean:456]: In the course of this proof, you show `Ioo x b ⊆ {y | y ∈ S ∧ x < y}` three times: once on line 434, again on line 453 and once again on line 456. It seems sensible to me to extract that proof into a have statement inside this proof.

File: Mathlib/Analysis/Convex/Deriv.lean [hunk 10]
```diff
@@ -365,19 +365,213 @@ lemma ConvexOn.slope_mono (hfc : ConvexOn 𝕜 s f) (hx : x ∈ s) : MonotoneOn
...
+      obtain ⟨z, haz, hzx⟩ := exists_between hxab.1
+      exact ⟨z, habs ⟨haz, hzx.trans hxab.2⟩, hzx⟩
+    · simp only [mem_image, mem_setOf_eq] at hz
+      obtain ⟨y, ⟨hys, hyx⟩, rfl⟩ := hz
+      obtain ⟨z, hxz, hzy⟩ := exists_between (max_lt hxab.1 hyx)
+      refine le_csSup_of_le (b := slope f x z) h_bddAbove ?_ ?_
+      · exact ⟨z, ⟨(le_max_left _ _).trans_lt hxz, hzy⟩, rfl⟩
+      · refine monotoneOn_slope_lt hfc (interior_subset hxs) ⟨hys, hyx⟩ ?_
+          ((le_max_right _ _).trans hxz.le)
+        exact ⟨habs ⟨(le_max_left _ _).trans_lt hxz, hzy.trans hxab.2⟩, hzy⟩
```
Comment (b-mehta) [inline Mathlib/Analysis/Convex/Deriv.lean:489]:
```suggestion
lemma core {α β : Type*} [Preorder α] [ConditionallyCompleteLattice β] {f : α → β}
    {s t : Set α} (hst : s ⊆ t) (ht : BddBelow (f '' t)) (hf : MonotoneOn f t)
    (h : ∀ y ∈ t, ∃ x ∈ s, x ≤ y) :
    sInf (f '' s) = sInf (f '' t) := by
  obtain rfl | hs := Set.eq_empty_or_nonempty s
  · obtain rfl : t = ∅ := by simpa [Set.eq_empty_iff_forall_not_mem] using h
    rfl
  apply le_antisymm _ (csInf_le_csInf ht (hs.image _) (image_subset _ hst))
  refine le_csInf ((hs.mono hst).image f) ?_
  simp only [mem_image, forall_exists_index, and_imp, forall_apply_eq_imp_iff₂]
  intro a ha
  obtain ⟨x, hxs, hxa⟩ := h a ha
  exact csInf_le_of_le (ht.mono (image_subset _ hst)) ⟨x, hxs, rfl⟩ (hf (hst hxs) ha hxa)

lemma core' {α β : Type*} [Preorder α] [ConditionallyCompleteLattice β] {f : α → β}
    {s t : Set α} (hst : s ⊆ t) (ht : BddAbove (f '' t)) (hf : MonotoneOn f t)
    (h : ∀ y ∈ t, ∃ x ∈ s, y ≤ x) :
    sSup (f '' s) = sSup (f '' t) :=
  core (α := αᵒᵈ) (β := βᵒᵈ) hst ht hf.dual h

lemma hasDerivWithinAt_sInf_slope_of_mem_interior (hfc : ConvexOn ℝ S f) (hxs : x ∈ interior S) :
    HasDerivWithinAt f (sInf (slope f x '' {y ∈ S | x < y})) (Ioi x) x := by
  have hxs' := hxs
  rw [mem_interior_iff_mem_nhds, mem_nhds_iff_exists_Ioo_subset] at hxs'
  obtain ⟨a, b, hxab, habs⟩ := hxs'
  simp_rw [hasDerivWithinAt_iff_tendsto_slope]
  simp only [mem_Ioi, lt_self_iff_false, not_false_eq_true, diff_singleton_eq_self]
  have h : Ioo x b ⊆ {y | y ∈ S ∧ x < y} := fun z hz ↦ ⟨habs ⟨hxab.1.trans hz.1, hz.2⟩, hz.1⟩
  have h_Ioo : Tendsto (slope f x) (𝓝[>] x) (𝓝 (sInf (slope f x '' Ioo x b))) :=
    ((monotoneOn_slope_gt hfc (habs hxab)).mono h).tendsto_nhdsWithin_Ioo_right
      (by simpa using hxab.2) ((bddBelow_slope_lt_of_mem_interior hfc hxs).mono (image_subset _ h))
  suffices sInf (slope f x '' Ioo x b) = sInf (slope f x '' {y ∈ S | x < y}) by rwa [← this]
  apply core h (bddBelow_slope_lt_of_mem_interior hfc hxs) (monotoneOn_slope_gt hfc (habs hxab)) ?_
  rintro y ⟨hyS, hxy⟩
  obtain ⟨z, hxz, hzy⟩ := exists_between (lt_min hxab.2 hxy)
  exact ⟨z, ⟨hxz, hzy.trans_le (min_le_left _ _)⟩, hzy.le.trans (min_le_right _ _)⟩

lemma hasDerivWithinAt_sSup_slope_of_mem_interior (hfc : ConvexOn ℝ S f) (hxs : x ∈ interior S) :
    HasDerivWithinAt f (sSup (slope f x '' {y ∈ S | y < x})) (Iio x) x := by
  have hxs' := hxs
  rw [mem_interior_iff_mem_nhds, mem_nhds_iff_exists_Ioo_subset] at hxs'
  obtain ⟨a, b, hxab, habs⟩ := hxs'
  simp_rw [hasDerivWithinAt_iff_tendsto_slope]
  simp only [mem_Iio, lt_self_iff_false, not_false_eq_true, diff_singleton_eq_self]
  have h : Ioo a x ⊆ {y | y ∈ S ∧ y < x} := fun z hz ↦ ⟨habs ⟨hz.1, hz.2.trans hxab.2⟩, hz.2⟩
  have h_bddAbove : BddAbove (slope f x '' Ioo a x) := by
    refine (bddAbove_slope_gt_of_mem_interior hfc hxs).mono (image_subset _ h)
  have h_Ioo : Tendsto (slope f x) (𝓝[<] x) (𝓝 (sSup (slope f x '' Ioo a x))) :=
    ((monotoneOn_slope_lt hfc (habs hxab)).mono h).tendsto_nhdsWithin_Ioo_left
      (by simpa using hxab.1) ((bddAbove_slope_gt_of_mem_interior hfc hxs).mono (image_subset _ h))
  suffices sSup (slope f x '' Ioo a x) = sSup (slope f x '' {y ∈ S | y < x}) by rwa [← this]
  apply core' h (bddAbove_slope_gt_of_mem_interior hfc hxs) (monotoneOn_slope_lt hfc (habs hxab)) ?_
  rintro y ⟨hyS, hyx⟩
  obtain ⟨z, hyz, hzx⟩ := exists_between (max_lt hxab.1 hyx)
  exact ⟨z, ⟨(le_max_left _ _).trans_lt hyz, hzx⟩, (le_max_right _ _).trans hyz.le⟩
```

Looking at these lemmas, I realised they have a common `core` which is purely order-theoretic, and gives a result about how infima behave on images of cofinally above or cofinally below sets. And that one allows a) golfing and abstraction of the part of the proof after the suffices and b) order dualisation to help prove the second version. I think this gives you a nice golf and modularisation of the proofs, but it is up to you.

Comment (b-mehta) [reply Mathlib/Analysis/Convex/Deriv.lean:489]: I have avoided giving the order-theory lemmas the correct names and locations since I would like to check with you if you are okay with this refactoring of the proof!

Comment (b-mehta) [reply Mathlib/Analysis/Convex/Deriv.lean:489]: Oh, I just realised I can clean this up more, one moment!

Comment (RemyDegenne) [reply Mathlib/Analysis/Convex/Deriv.lean]: Thanks for that refactor! I was sad that I had order dual proofs that were proved by copy-paste instead of anything more automatic. Your refactor improves that.

**Comment by b-mehta** [comment]
Thanks!

bors merge
